Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I have to deal with many issues"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ y/o female with hx of depression, 
ADHD, anorexia nervosa s/p 1 hospitalization ___ years ago, with 
history of self injurious behavior by cutting with no reported 
suicide attempts, presenting to ED after patient's coworkers 
called ___ when patient did not come to work in context of 
making recent suicidal statements. 

Per Ms. ___, she reports that she is unable to remember 
what type of statement she made, but described "its just my dark 
humor, I made a statement saying I'd kill myself and I think 
that's what they are referring to". Patient states that this 
morning, she was feeling overwhelmed, anxious, depressed, 
anhedonic, and reported being unable to get out of bed to go to 
work because her limbs "felt heavy". She states that she has 
been feeling increasingly depressed for the past ___ years since 
she moved form ___ to escape a toxic, abusive 
relationship with her ex boyfriend. Her friend ___ (living in 
___ helped the patient financially by paying for half her 
rent for the first 6 months while patient moved to an apartment 
in ___ he additionally cosigned her lease. Nevertheless, 
he has been angry with the patient since she has been unable to 
pay him back, and now patient is struggling financially to pay 
her rent. She has been unable to pay her rent for the past year, 
reports constant fear of being evicted and homeless. 

She reports that she is additionally stressed at work, currently 
working as an ___ 6 days per week, and has been 
feeling increasingly more depressed, anhedonic, and anxious for 
the past 2 months. In addition to worsening depressed mood, 
reports increased sleep (sleeps up to 12 hours if she does not 
have work), impaired self care (no longer does her laundry 
regularly, does not enjoy taking showers or going to the 
supermarket which she enjoyed prior), with some isolative 
behavior with less desire to spend time with her friends. 
Patient reports escalating alcohol use and has been drinking ___ 
shots of hard liquor every other day (approximately ___ times 
per week) to cope with her stressors. At this time, she denies 
any actively suicidal ideation, intent or plan to harm herself 
but reports having frequent ruminative thoughts about wanting to 
"escape" or "end things" because it would be easier than dealing 
with her current stressors. 

Patient reports that her current support system consists of her 
friends from work. Her father is very remotely involved in her 
life and her brother is estranged and struggling from chronic 
substance abuse. Her mother passed away from cancer when she was 
in college. Patient states that depression has been a chronic 
struggle for her since she was in high school, given her 
difficultly coping with her mother's cancer diagnosis. During 
this period she would cut using razors, but has not engaged in 
self injurious behaviors since then. She denies any prior hx of 
suicide attempts. 

Patient denies any symptoms of PTSD including flashbacks, 
nightmares, hyper vigilance, or worsening anxiety but did not 
that she has had a pattern of falling into abusive relationship 
with men (last 3 relationships were abusive, mostly emotional 
with some physical abuse). She endorses some periods of engaging 
in shopping sprees (" I can spend a large amount of money very 
quickly when I'm stressed"), impulsive behaviors, decreased need 
for sleep and increase in goal directed activity but was unable 
to specify a distinct time period during which this occurred and 
stated that it may coincide with her Adderall use. 

Collateral: 
Coworkers ___ and ___- ___
Andreanna- ___
___- (friend who called ___ 

Patient's friend ___ expressed feeling significantly 
concerned given patient missed work today. Last 2 weeks patient 
has been reporting feeling depressed, patient can "shut down and 
doesn't want to deal with anything". Made suicidal statements 
like "I could just kill myself" in passing, usually in context 
of joking, but was afraid given that today patient never showed 
up to work or even called to let her boss know; her coworkers 
found this to be unusual behavior because in the past when she 
needs a mental health day she has asked for one.  "She has a lot 
going on and its become too much for her to handle".
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Hospitalizations:  1 hospitalization when pt was ___, 
hospitalized for tx of anorexia 
-Current treaters and treatment:  Has outpt provider ___. 
___ in ___, last saw him 1 month ago. Was seeing 
Dr. ___ while living in ___. Struggling to 
find providers given insurance is still specific to ___ 
___.
-Medication and ECT trials:  "all the antidepressants"; 
currently on Prozac, has been trialed on wellbutrin, celexa, 
Effexor, and sertraline. 
-Self-injury: hx self injurious behavior by cutting while in HS 
Harm to others: Denies
-Access to weapons: Denies

PAST MEDICAL HISTORY:
No significant medical history
 
Social History:
SUBSTANCE ABUSE HISTORY:
Currently drinking ___ times per week usually with 4 shots of 
hard liquor, reports escalating alcohol use. No hx of withdrawal 
sx. Used to smoke cannabis socially, on longer uses any illicit 
substances. 
 
FORENSIC HISTORY:
Arrests:denies
Convictions and jail terms: denies
Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
___
Family History:
Uncle (maternal) has hx schizophrenia
Brother- hx substance abuse and "probably other mental health
issues"

 
Physical Exam:
General:
- HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
- Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
- Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
- Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
- Extremities: Warm and well-perfused.  No edema of the limbs.
- Skin: Nonpruritic papular rash with some excoriations on
patient's arms, legs and chest.

Neurological: 
- Cranial Nerves:
  - I: Olfaction not tested.
  - II: PERRL 3 to 2mm bilaterally.  
  - III, IV, VI: EOMI without nystagmus
  - V: Facial sensation intact to light touch in all
distributions bilaterally
  - VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
  - VIII: Hearing intact to finger rub bilaterally
  - IX, X: Palate elevates symmetrically
  - XI: ___ strength in trapezii and SCM bilaterally
  - XII: Tongue protrudes in midline
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
- Sensory: No deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: Normal on finger to nose test, no intention
tremor noted
- Gait: Good initiation.  Narrow-based, normal stride and arm
swing.

Cognition: 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors, 6 digits forward
- Orientation: oriented to person, time, place, situation
- Memory: ___ registration, ___ recall after 5 ___
grossly intact
- Fund of knowledge: consistent with education; intact to last 3
presidents
- Calculations: 7 quarters = "$1.75"
- Language: native ___ speaker, fluent, no paraphasic 
errors,
appropriate to conversation

Mental Status: 
- Appearance: young woman appearing her stated age, with dark
blue hair pulled up and a black hairband, wearing hospital gown,
in no apparent distress, fair grooming and hygiene
- Behavior: sitting comfortably in her chair, good eye contact,
no psychomotor agitation or retardation
- Attitude: cooperative, easily engaged, friendly, appearing to
want to please or at least not offend the interviewer
- Mood: "depressed"
- Affect: anxious but largely euthymic, reactive 
- Speech: somewhat fast, normal volume and tone, no dysarthria
- Thought process: somewhat verbose but largely linear,
goal-oriented, no evidence of thought disorder
- Thought Content:
--- Safety: endorses fleeting passive SI, denies HI
--- Delusions: no evidence of paranoia
--- Obsessions/Compulsions: no evidence based on current
encounter
--- Hallucinations: denies AVH, not appearing to be attending to
internal stimuli
- Insight: Limited
- Judgment: limited

 
Pertinent Results:
___ 04:04PM BLOOD WBC: 7.5 RBC: 4.73 Hgb: 14.1 Hct: 42.7
MCV: 90 MCH: 29.8 MCHC: 33.0 RDW: 13.1 RDWSD: 43.___ 
___ 04:04PM BLOOD Neuts: 62.6 Lymphs: ___ Monos: 8.7 Eos:
5.6 Baso: 0.5 Im ___: 0.3 AbsNeut: 4.68 AbsLymp: 1.67 AbsMono:
0.65 AbsEos: 0.42 AbsBaso: 0.04 
___ 04:04PM BLOOD Plt Ct: 286 
___ 04:04PM BLOOD Glucose: 83 UreaN: 10 Creat: 0.6 Na: 143
K: 4.1 Cl: 103 HCO3: 20* AnGap: 20* 
___ 04:04PM BLOOD TSH: 0.90 
___ 04:04PM BLOOD ASA: NEG Ethanol: 70* Acetmnp: NEG
Tricycl: NEG 
___ 04:15PM URINE Color: Yellow Appear: Cloudy* Sp ___:
1.021 
___ 04:15PM URINE Blood: NEG Nitrite: NEG Protein: 30*
Glucose: NEG Ketone: 10* Bilirub: NEG Urobiln: NEG pH: 6.5 
Leuks:
NEG 
___ 04:15PM URINE RBC: 5* WBC: 0 Bacteri: FEW* Yeast: NONE
Epi: 7 
___ 04:15PM URINE AmorphX: OCC* 
___ 04:15PM URINE Mucous: MANY* 
___ 04:15PM URINE UCG: NEGATIVE 
___ 04:15PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: POS* oxycodn: NEG mthdone: NEG 
___ 4:04 pm SEROLOGY/BLOOD
RAPID PLASMA REAGIN TEST (Final ___: NONREACTIVE. 
URINE CULTURE (Final ___: MIXED BACTERIAL FLORA ( >= 3
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION.

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She signed a 3 day notice on ___ 
which expired on ___. A section ___ was not filed. She 
was placed on 15 minute checks status and remained on that level 
throughout while being unit restricted.  
. 
2. PSYCHIATRIC:
#) Major Depressive Disorder, Recurrent
#) ADHD 
#) Anorexia Nervosa (by history, in remission) 
#) Unspecified anxiety disorder 
#) r/o alcohol use disorder 
.    

___ woman with a history of MDD, ADHD, anxiety, anorexia 
nervosa s/p 1 hospitalization ___ years ago, with history of self 
injurious behavior by cutting with no reported suicide attempts, 
presenting to ED after patient's coworkers called ___ when 
patient did not come to work in context of making recent 
suicidal statements. Although patient denied intent or plan to 
end her own life, she acknowledged recent worsening depressive 
symptoms and ruminative anxiety in the context of situational 
stressors (e.g. work demands, limited social support, housing 
instability, distance from outpatient providers).
. 
While patient was in the ED, she was in good behavioral control, 
cooperative with staff and adherent to her treatment regimen. 
She was ambivalent regarding inpatient admission given constant 
ruminative anxious thoughts about needing to go back to work 
given concerns about losing her job or housing. She continued to 
endorse depressed mood with anhedonia, but denied any active 
suicidal ideation, intent, or plan. She did nevertheless endorse 
some passive suicidal thoughts of wanting to "disappear" or 
"escape" from her situational stressors. 
. 
When patient was initially admitted, she appeared intermittently 
tearful, often fidgeting throughout the interview and expressing 
that she felt very anxious about being in the hospital. She 
described her mood as "anxious" and "depressed", appeared 
dysphoric, tearful, with labile affect. She reported that being 
in an inpatient unit was therapeutic and that she was "happy to 
be here", attended groups regularly, and participated within the 
social milieu. While admitted patient was re-started on lamictal 
25 mg daily given patient reported improvement in depressive 
symptoms in the past. Her dose of lamictal should be increased 
to 50 mg on ___. From ___ patient should 
take lamictal 100 mg daily until seeing her outpatient 
providers. She was continued on her home dose of Prozac and 
Adderall. LICSW along with insurance representative helped 
patient with determining how to transition insurance, apply for 
potential funding to help with finances, and aided patient with 
finding new providers in ___. 
. 
Prior to discharge, patient appeared to be anxious regarding 
imminent discharge and expressed concern with coping with her 
various psychosocial stressors including concerns regarding 
losing her job or having to find a new apartment. Nevertheless, 
she appeared to be future oriented with plan to continue to work 
with her outpatient providers and reported feeling happy to see 
her cat given how worried she has been over the past few days. 
She denied any thoughts of wanting to harm herself consistently 
throughout the admission with no suicidal ideation, intent, or 
plan. 
.
Diagnostically, presentation is concerning for major depression 
and unspecified anxiety disorder, with possibility of a 
substance induced mood disorder given escalating alcohol use. At 
this time, we cannot rule out the possibility of Bipolar II 
given patient has a history of treatment resistant depression, 
prior hx of impulsivity, and increase in goal directed activity. 
She additionally reported that in the past she has been 
diagnosed with borderline personality disorder and reported a 
long history of tumultuous, tenuous relationships. 
Recommendation is for patient to participate in DBT/CBT group 
sessions given issues with low distress tolerance which patient 
was amenble to. 
. 
3. SUBSTANCE USE DISORDERS:
#) Alcohol use disorder 
- Given escalating alcohol use ___ times per week (3 shots of 
hard liquor at a time), patient is at elevated risk from alcohol 
related medical complications 
- Provided patient with counseling regarding alcohol cessation, 
was offered information about AA and other resources. Recommend 
that patient follow up with her PCP, ___, psychiatrist 
regarding alcohol cessation. 
.
4. MEDICAL
#)Scattered maculopapular rash
Patient noted that she has had diffuse rash over back and b/l 
arms and legs for several months. Says she started ketogenic 
(carb-free) diet around ___ with some improvement, but not 
complete resolution. On exam, rash appears as scattered
erythematous maculopapular rash on b/l upper arms and lower legs 
and upper back, with some lesions at various stages of healing 
and evidence of excoriation. Ddx includes dermatitis 
herpetiformis, lichenoid process etc.
- f/u TTG, gliadin Ab given concern for celiac disease
- Continue regular diet for now
- transitional issue for PCP: ___ dermatology referral 
. 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. She was calm, cooperative, and 
interactive; she met majority of her goals set by occupational 
therapy. 
. 
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Coworkers- 
___- ___
___- ___
. 
___- (friend who called ___ 
. 
Patient's friend ___ expressed feeling significantly 
concerned given  patient missed work today. Last 2 weeks patient 
has been reporting feeling 
depressed, patient can "shut down and doesn't want to deal with 
anything". Made suicidal statements like "I could just kill 
myself" in passing, usually in context of joking, but was afraid 
given that today patient never showed up to work or even called 
to let her boss know; her coworkers found this to be unusual 
behavior because in the past when she needs a mental health day 
she has asked for one.  "She has a lot going on and its become 
too much for her to handle".  
. 
#) INTERVENTIONS
- Medications: Lamictal 25 mg daily --> increase to 50 mg on 
___
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare:  Please see below. 
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
coping skills, OT group sessions 
.
RISK ASSESSMENT & PROGNOSIS
. 
On presentation, the patient was evaluated and felt to be at an 
increased risk of being unable to care for herself based upon 
deteriorating ability to care for self, hopelessness, anhedonia, 
impaired sleep, chronic mental illness, with multiple 
psychosocial stressors including tenuous housing situation and 
interpersonal stressors. She additionally demonstrated limited 
coping skills and limited contact with outpatient providers. At 
this time, Ms. ___ has numerous protective factors 
including help seeking behavior, access to outpatient providers, 
new access to insurance, with desire to remain medication 
adherent. Patient demonstrated preserved capacity to engage in a 
meaningful conversation about safety planning and what she would 
do if symptoms of depression worsen or thoughts of suicide 
returned (e.g. patient would contact providers at ___ 
___, call ___, or come to the emergency 
department). At this time, her risk factors are mitigated by her 
protective and modifiable risk factors and as such she no longer 
meets ___ criteria. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO DAILY 
2. Amphetamine-Dextroamphetamine 20 mg PO DAILY 
3. Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine 25 mg 1 tablet(s) by mouth daily Disp #*21 
Tablet Refills:*0 
2.  Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 
RX *dextroamphetamine-amphetamine [Adderall XR] 30 mg 1 
capsule(s) by mouth daily Disp #*21 Capsule Refills:*0 
3.  Amphetamine-Dextroamphetamine 20 mg PO DAILY 
RX *dextroamphetamine-amphetamine [Adderall] 20 mg 1 tablet(s) 
by mouth daily Disp #*21 Tablet Refills:*0 
4.  FLUoxetine 40 mg PO DAILY 
RX *fluoxetine 40 mg 1 capsule(s) by mouth daily Disp #*21 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Recurrent
ADHD (by history)
Unspecified anxiety disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___